US08541421B2
To a solution of 2-amino-3-cyanopyridine (300 mg, 2.5 mmol) in 1.4-dioxane (5 mL) was added benzoyl isocyanate (370 mg, 2.5 mmol). The reaction mixture was then stirred at room temperature under nitrogen overnight. The precipitation was collected by filtration, washed with EtOAc/Hexanes (1:4), and dried under vacuum to give N-(3-cyanopyridin-2-ylcarbamoyl)benzamide as a white solid (360 mg, 54%). MS 266 (MH+).

reactant | 2-amino-3-cyanopyridine | 2.5 mmol, 300 mg | NC1=NC=CC=C1C#N | C6H5N3
reactant | benzoyl isocyanate | 2.5 mmol, 370 mg | C(C1=CC=CC=C1)(=O)N=C=O | C8H5NO2
solvent | 1.4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | N-(3-cyanopyridin-2-ylcarbamoyl)benzamide | 360 mg, 54% | C(#N)C=1C(=NC=CC1)NC(=O)NC(C1=CC=CC=C1)=O | C14H10N4O2
